US07479564B2
STEP 1. ethyl(5-amino-2-pyridinyl)acetate
To a solution of (5-amino-2-pyridinyl)acetic acid (1.46 g, 9.6 mmol, Daisley; R. W.; Hanbali, J. R., Synthetic Communications., 1981, 11(9), 743.) in ethanol was added conc. H2SO4 and stirred for 16.5 h under hydrogen atmosphere at room temperature. The mixture was neutralized with saturated NaHCO3 aqueous solution and the solvent was removed. The mixture was diluted with water and extracted with ethyl acetate (5×20 ml). The organic layer was washed with brine, dried (MgSO4) and concentrated to give 1.2 g of title compound as brown oil.

reactant | (5-amino-2-pyridinyl)acetic acid | 9.6 mmol, 1.46 g | NC=1C=CC(=NC1)CC(=O)O | C7H8N2O2
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | ethanol | C(C)O | C2H6O
product | ethyl(5-amino-2-pyridinyl)acetate | 1.2 g | C(C)OC(CC1=NC=C(C=C1)N)=O | C9H12N2O2
